US08426601B2
In some embodiments, the process further comprises: reacting 1-bromo-3-iodobenzene with 3-pyridine boronic acid to form 3-(3-bromophenyl)pyridine.

reactant | 1-bromo-3-iodobenzene | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | 3-pyridine boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 3-(3-bromophenyl)pyridine | BrC=1C=C(C=CC1)C=1C=NC=CC1 | C11H8BrN
